US06746728B1
Under the same conditions as those described for the example 1, using 3,5-difluorophenylacetic acid instead of 4-fluorophenylacetic acid yielded 2-(4-propylphenyl)-5,7-difluoro-1,2,3,4-tetrahydronaphthalene. 10 g of this 2-(4-propylphenyl)-5,7-difluoro-1,2,3,4-tetrahydronaphthalene was lithiated using butyllithium, converted to a benzoic acid by blowing carbon dioxide into the reaction vessel, subsequently converted to an acid chloride with thionyl chloride, and an amide then synthesized by blowing ammonia gas into the reaction mixture was dissolved in 40 ml of DMF, 2.5 ml of phosphorus oxychloride was added, and the reaction was allowed to proceed for 2 hours at 25° C. The reaction liquid was poured into water with ice, dilute hydrochloric acid was added, and the water layer was extracted with toluene. The toluene extract was combined with the organic layer, and following washing with water, a saturated aqueous solution of sodium bicarbonate, water and a saturated aqueous solution of sodium chloride, was dried over anhydrous sodium sulfate. The crude product was purified using silica gel column chromatography (hexane/dichloromethane=6/4), and then recrystallized from ethanol to yield 6.3 g of 2-(4-propylphenyl)-5,7-difluoro-6-cyano-1,2,3,4-tetrahydronaphthalene.

reactant | 2-(4-propylphenyl)-5,7-difluoro-1,2,3,4-tetrahydronaphthalene | 10 g | C(CC)C1=CC=C(C=C1)C1CC2=CC(=CC(=C2CC1)F)F | C19H20F2
reactant | butyllithium | C(CCC)[Li]
reactant | benzoic acid | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | carbon dioxide | C(=O)=O | CO2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | ammonia | N | H3N
reactant | phosphorus oxychloride | 2.5 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | hydrochloric acid | Cl | ClH
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-(4-propylphenyl)-5,7-difluoro-6-cyano-1,2,3,4-tetrahydronaphthalene | 6.3 g | C(CC)C1=CC=C(C=C1)C1CC2=CC(=C(C(=C2CC1)F)C#N)F | C20H19F2N
